US08557922B2
7.2 Preparation of 2,2′-bis(hydroxymethyl-4,4′-Dinitro 1,1′-biphenyl
3.6 g (10.83 mmol) 4,4′-Dinitro-1,1′-biphenyl-2,2′-dicarboxylic acid ae dissolved in 25 ml tetrahydrofuran and added dropwise in a the course of 1 hours to 65 ml (65.02 mmol) of a borane-tetrahydrofuran complex 1.0 M solution in tetrahydrofuran. After 19 hours at 25° C., 50 ml water are carefully added. After 1h the solution is acidified to pH=1-2 with 10 ml 1N HCl solution and allowed to stirred for 30 min. The reaction mixture is then partitioned between ethyl acetate and water; the organic phase is washed repeatedly with water, dried over sodium sulfate, filtered and concentrated by rotary evaporation. The residue, 4.2 g of 2,2′-bis(hydroxymethyl-4,4′-Dinitro 1,1′-biphenyl as white powder is used without further purification.

reactant | 4,4′-Dinitro-1,1′-biphenyl-2,2′-dicarboxylic acid | 10.83 mmol, 3.6 g | [N+](=O)([O-])C=1C=C(C(=CC1)C=1C(=CC(=CC1)[N+](=O)[O-])C(=O)O)C(=O)O | C14H8N2O8
reactant | water | 50 ml | O | H2O
reactant | HCl | 1N, 10 ml | Cl | ClH
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | hydroxymethyl-4,4′-Dinitro 1,1′-biphenyl | OCC1=C(C=CC(=C1)[N+](=O)[O-])C1=CC=C(C=C1)[N+](=O)[O-] | C13H10N2O5
